US05350748
A solution of potassium tert-butoxide (12.0 g, 107 mmol) in 50 mL of methyl sulfoxide is cooled in a cold water bath while a solution of methyl 3-hydroxy-5-methoxy-2-benzofurancarboxylate (16.2 g, 73 mmol) [Connor D. T., et al., J. Med, Chem. 35, 958 (1992)] in 150 mL of methyl sulfoxide is added dropwise. The mixture is stirred for 45 minutes and 2-bromopropane (12.0 mL, 15.7 g, 128 mmol) is added in one portion. After stirring at room temperature for 48 hours, the mixture is added to 1.2 kg of ice and water and acidified with 6.0N HCl . The mixture is extracted with dichloromethane, and the combined organic layers are washed with water, 5% aqueous Na2CO3, and water again, then dried (anhydrous sodium sulfate) and evaporated to an oil residue. The oil is purified by bulb-to-bulb vacuum distillation to provide 14.2 g (74%) to methyl 5-methoxy-3 -(1-methylethoxy)-2-benzofurancarboxylate, suitable for further synthesis; mp=55°-63° C.

reactant | potassium tert-butoxide | 107 mmol, 12.0 g | CC(C)([O-])C.[K+]
reactant | methyl 3-hydroxy-5-methoxy-2-benzofurancarboxylate | 73 mmol, 16.2 g | OC1=C(OC2=C1C=C(C=C2)OC)C(=O)OC | C11H10O5
reactant | 2-bromopropane | 128 mmol, 12.0 mL, 15.7 g | BrC(C)C | C3H7Br
reactant | HCl | 6.0N | Cl | ClH
solvent | methyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 5-methoxy-3 -(1-methylethoxy)-2-benzofurancarboxylate | COC=1C=CC2=C(C(=C(O2)C(=O)OC)OC(C)C)C1 | C14H16O5
